US07981879B2
Step 2: N-(4-Fluorobenzyl)-3-hydroxy-9,9-dimethyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrazino[1,2-a]pyrimidine-2-carboxamide
2-{1-[(2-Chloroethyl)amino]-1-methylethyl}-N-(4-fluorobenzyl)-5,6-dihydroxypyrimidine-4-carboxamide (1 eq.) was dissolved in 1,4-dioxane and Cs2CO3 (1 eq.) was added. The reaction mixture was stirred at 100° C. overnight, then cooled to room temperature and the solvent was removed under reduced pressure. The resulting brown oil was suspended in MeOH, filtered and the filtrate was evaporated to give a residue that was purified on Cation Exchange Resin (Varian Mega Bond Elute SCX). After washing with MeOH, the product was collected eluting with 2N NH3 solution in MeOH. The fractions containing the desired material were concentrated under reduced pressure to yield, after trituration with Et2O the title compound as a yellow solid. A small portion of this crude was purified by RP HPLC (C18, 5 μM, H2O/MeCN with 1% of TFA as eluant) affording the pure product as TFA salt. 1H NMR (400 MHz, d6-DMSO) δ 9.41 (bs, 1H), 7.37 (dd, J=8.6 Hz, J=5.7 Hz, 2H), 7.17 (t, J=8.6 Hz, 2H), 4.48 (d, J=6.4 Hz, 2H), 3.74 (t, J=5.5 Hz, 2H), 3.06 (t, J=5.5 Hz, 2H), 1.46 (s, 6H); MS (ES) C17H19FN4O3 requires: 346. Found: 347 (M+H+).

reactant | 2-{1-[(2-Chloroethyl)amino]-1-methylethyl}-N-(4-fluorobenzyl)-5,6-dihydroxypyrimidine-4-carboxamide | 1 eq. | ClCCNC(C)(C)C1=NC(=C(C(=N1)C(=O)NCC1=CC=C(C=C1)F)O)O | C17H20ClFN4O3
reactant | Cs2CO3 | 1 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Et2O | CCOCC | C4H10O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-(4-Fluorobenzyl)-3-hydroxy-9,9-dimethyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrazino[1,2-a]pyrimidine-2-carboxamide | FC1=CC=C(CNC(=O)C=2N=C3N(C(C2O)=O)CCNC3(C)C)C=C1 | C17H19FN4O3
